US05811389
A solution of 500 mg (1.46 mmol) of 6-diethoxymethyl-10-methyl-phenothiazine-4-carbaldehyde in 5 ml of tetrahydrofuran can be converted analogously to that described in Example 1.1.1.d with 0.22 g (1.75 mmol) of methyl (methylthiomethyl) sulphoxide, 0.14 ml of TRITON B (benzyltrimethylammonium hydrochloride) solution (35% in methanol) and hydrolysis into methyl 6-formyl-10-methyl-phenothiazine-4-acetate. This compound can be converted analogously to that described in Example 1.1.1.e in methanol, water and tetrahydrofuran using sodium acetate and hydroxylamine hydrochloride into methyl 6-[(hydroximino)methyl]-10-methyl-phenothiazine-4-acetate. This compound can be hydrogenated over palladium/charcoal in methanol and methanolic hydrochloric acid (20%) analogously to that described in Example 1.1.1.f, whereby there is obtained methyl 6-aminomethyl-10-methyl-phenothiazine-4-acetate hydrochloride which can be converted analogously to that described in Example 1.1.2 in dioxan and 1N sodium hydroxide solution using di-tert-butyl dicarbonate into methyl 6-[(1-tert-butylformamido)methyl]-10-methyl-phenothiazine-4-acetate. The product obtained can be hydrolyzed with 1N potassium hydroxide solution in methanol analogously to that described in Example 1.1.3 to give (6-tert-butoxycarbonyl-aminomethyl-10-methyl-phenothiazin-4-yl)-acetic acid prepared according to Example 2.1.1.g.

reactant | 6-diethoxymethyl-10-methyl-phenothiazine-4-carbaldehyde | 1.46 mmol, 500 mg | C(C)OC(C1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)C=O)OCC | C19H21NO3S
reactant | methyl (methylthiomethyl) sulphoxide | 1.75 mmol, 0.22 g | CSCS(=O)C | C3H8OS2
reactant | benzyltrimethylammonium hydrochloride | Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | methyl 6-formyl-10-methyl-phenothiazine-4-acetate | C(=O)C1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)CC(=O)OC | C17H15NO3S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | methyl 6-[(hydroximino)methyl]-10-methyl-phenothiazine-4-acetate | N(O)=CC1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)CC(=O)OC | C17H16N2O3S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
catalyst | palladium/charcoal | [Pd] | Pd
solvent | water | O | H2O
product | methyl 6-aminomethyl-10-methyl-phenothiazine-4-acetate hydrochloride | Cl.NCC1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)CC(=O)OC | InChI=1S/C17H18N2O2S.ClH/c1-19-13-7-3-5-11(9-15(20)21-2)16(13)22-17-12(10-18)6-4-8-14(17)19;/h3-8H,9-10,18H2,1-2H3;1H
